*$
*  LMZ12003
*****************************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LMZ12003
* Date: 08JAN2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: AN-2024 LMZ1420x / LMZ1200x
* EVM Users Guide: SNVA422D-Revised March 2010
* Datasheet:SNVS636L-REVISED JULY 2012
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
.SUBCKT LMZ12003_TRANS Vin Ron En Gnd SS FB VOUT
VL 1 GND
;@10Jan2013/11:36V4 En GND 2
E_BILIM VILIM 0 value = { IF(V(LFD) > 3 & I(VIL) > 0 , I(VIL)*17.5M , 0)}
VIL SW SWITCH
VLF SW 57
E_BFB VREFI GND value = { IF(V(SS) < V(REF1) , V(SS) , IF( V(LFD) > 1 , V(REF1)-2.6M*I(VIL) ,  V(REF1)))}
RL1 60 VOUT 45M
E_BREF1 REF1 GND value = { IF(V(ENON) > 1 , 0.8 , 0)}
VISS 76 SS
XFETHS 12 UFD SW NATFET3100HSX2_0
D1 0 57 _D1_MOD
.MODEL _D1_MOD D AF=1 BV=40 CJO=1.58826E-10 EG=0.550697  FC=0.5 IBV=0.002 IS=0.008 
+ KF=0 M=0.513246 N=2.34207  RS=0.0274675 TT=0 VJ=1.5 XTI=3.03417
X10 57 LFD 0 NATFET3100LSX10_0
E_BD1 56 0 value = { IF(V(UVLO) > 1 & V(DH) > .1 & I(VLF) < -1 , 5 , -1)}
D2 LFD 56 _D2_MOD
.MODEL _D2_MOD D RS=20
Q1 VCC 56 LFD _QMOD
.MODEL _QMOD NPN
X22 50 54 QLATCH QN LATCHNAND_0
E_BREF REF GND value = { IF(V(VCC) > 2.5 , 2.5 , V(VCC))}
XDT DRIVE DH 63 DL NEWDT_0
E_BUVD 66 GND value = { IF(V(UVRC) > 4.75 & V(ONT) > 1 , 5 , 0)}
X7 3 CL QLATCH 47 NAND3B_0
X6 47 2 DRVNOT DRIVE LATCHNAND_0
V5 69 GND PULSE 0 5 0 1N 1N 1U
XUVD 66 69 UVLO 68 SRLATCHD_0
D8 GND 52 _D8_MOD
.MODEL _D8_MOD D BV=1 IBV=10U N=2
CON 14 GND 100P
COFF 8 GND 4.45P
VSENSE VIN 12
G_BTON GND 14 value = { IF(V(ENON) < 1 , 0 , IF( V(VIN) < 12 , 147.45P * V(REF) / 
+ ( ( ( 1.4E-10 * (  ( (V(VIN)-V(RON)) / I(V17) ) ) ) / (V(VIN)) ) ) , IF( V(VIN) <15 , 147.45P * V(REF)
+   /  ( ( ( 1.2E-10 * ( ( (V(VIN)-V(RON)) / I(V17) ) ) ) / (V(VIN)) ) ) , 147.45P *  V(REF) 
+ / ( ( ( 1.3E-10 * ( ( (V(VIN)-V(RON)) / I(V17) ) ) ) / (V(VIN)) ) ))))}
XFB VREFI FB 3 COMPWDEL_0
XCL VILIM 11 20 COMPWDEL_1
E_BUVLO 24 GND value = { IF(V(VIN) > 6.3 , 5.7 , IF( V(VIN)-0.5< 0 , 0 , V(VIN)-0.5))}
E_BD 25 SW value = { IF(V(UVLO) > 1 & V(GATEUVLO) > 1 & V(DL) > 1 , V(BST,SW) , -1)}
D20 VCC BST _D
.MODEL _D D
C8 VCC GND 1U IC=5
R55 EN 48 100K
CSH 48 GND 20P
SGUV 13 GATEUVLO BST SW _S9_MODX
.MODEL _S9_MODX vswitch VT=2.99985 VH=0.15M
R56 GATEUVLO GND 1MEG
V38 13 GND DC=5
SEN ENON EOND 31 GND _S11_MOD
.MODEL _S11_MOD vswitch VT=3.63 VH=70M
R57 EOND GND 1MEG
SSD 37 ENON 48 GND _S12_MOD
;@10Jan2013/11:41.MODEL _S12_MOD vswitch VT=1.21 VH=40M
.MODEL _S12_MOD vswitch VT=1.135 VH=45M
R58 ENON GND 1MEG
V39 37 GND DC=5
C4 BST SW 47N
D21 24 38 _D6_MODX
.MODEL _D6_MODX D RS=140
IREG 38 VCC DC=50M
D22 VCC 38 _D
E_BOVER OV GND value = { IF(V(FB) > 0.92 , 5 , 0)}
G_BTOFF GND 8 value = { IF(V(ENON) < 1 , 0 , 38U)}
V17 RON 52
XSOFF 8 GND QLATCH GND SSWITCH_0
X61 14 GND DRIVE GND SSWITCH_0
D24 UFD 25 _D24_MODX
.MODEL _D24_MODX D RS=20
Q11 BST 25 UFD _QMOD
RUV 44 UVRC 1K
CUV UVRC GND 1N
G_R61 31 GND value = {V(31,GND)/(  IF(V(ENON) < 1 , 480K , 96K) )}
V43 VCC 31
EUV 44 GND EOND GND 1
VCL 11 GND DC=73.5M
L1 SWITCH 60 6.8U 
MSS SS VSDN GND GND _M
.MODEL _M NMOS VTO=1
E_BSSEN VSDN GND value = { IF(V(ENON) < 1 , 5 , 0)}
QSS1 45 45 21 QP
.MODEL QP PNP
QSS2 76 45 21 QP
R63 45 1 607K
X64 ONT 47 49 AND2B_0
X65 OFFT VSDN 50 NOR2B_0
X66 49 VSDN 51 OV 2 NOR4B_0
X67 53 51 INVB_0
VHSLIMIT 53 0 DC=5
X68 20 CL INVB_0
X69 14 REF ONT QLATCH COMPWDELEN_0
XOFF 8 REF OFFT QN COMPWDELEN_1
X71 ONT 51 54 NOR2B_0
E_BSSV 21 GND value = { IF(V(VCC)-0.7 > 4.7 , 4.7 , V(VCC))}
.ENDS LMZ12003_TRANS
*$
.SUBCKT NATFET3100HSX2_0 10 20 30
M1 1 2 3 3 DMOS L=1U W=1U
RD 10 1 215M
RS 40 3 20M
RG 20 2 60.0
CGS 2 3 228P
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 239P
R1 13 0 1.00
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1.00
D2 15 0 DLIM
DSD 3 10 DSUB
LS 30 40 100P
.ENDS
*$
.SUBCKT NATFET3100LSX10_0 10 20 30
M1 1 2 3 3 DMOS L=1U W=1U
RD 10 1 0.127
RS 40 3 7.75M
RG 20 2 60.0
CGS 2 3 90P
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 98P
R1 13 0 1.00
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1.00
D2 15 0 DLIM
DSD 3 10 DSUB
LS 30 40 100P
.ENDS
*$
.SUBCKT LATCHNAND_0 3 4 1 2
X1 3 2 1 NAND2B_0
X2 4 1 2 NAND2B_0
.ENDS
*$
.SUBCKT NAND2B_0 1 2 3
E_B1 4 0 value = {IF( ~((V(1)>1.5)&(V(2)>1.5)),3.5,0.3)}
RD 4 3 1
CD 3 0 0.087NF
.ENDS
*$
.SUBCKT NEWDT_0 CLK GU SU QL
E_BU1 1 0 value = { IF((V(CLK)>800M) & (V(TD1)>800M) , 10.0000  , 100.000M)}
E_BU2 4 SU value = {V(1)}
RSU 4 GU 2.0000
RFLO SU 0 1G
E_BL 2 0 value = { IF((V(CLKB)>800M) & (V(TD2)>800M) , 10.0000  , 100.000M)}
RSL 2 QL 2.0000
X1 CLK TD1 UTD_0
X2 CLKB TD2 UTD_0
X3 CLK CLKB INV_0
.ENDS
*$
.SUBCKT UTD_0 1 2
RIN 1 0 1E15
E1 3 0 1 0 1
T1 3 0 2 0 Z0=1 TD=30.000N
R1 2 0 1
.ENDS
*$
.SUBCKT INV_0 1 2
E_B1 4 0 value = { IF( V(1)>800M , 0 , 5V)}
RD 4 2 100
CD 2 0 10P
.ENDS
*$
.SUBCKT NAND3B_0 1 2 3 4
* A B C OUT
E_B1 5 0 value = {IF( ~((V(1)>1.5)&(V(2)>1.5)&(V(3)>1.5)),3.5,0.3)}
RD 5 4 1
CD 4 0 0.087NF
.ENDS
*$
.SUBCKT SRLATCHD_0 S R Q QB PARAMS: VDD=3.3 VSS=0.3 VTHRESH=1.75
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.ENDS
*$
.SUBCKT COMPWDEL_0 1 2 3
E_B1 4 0 value = { IF(V(1) > V(2) , 5 , 0)}
T1 4 0 5 0 Z0=1 TD=25.000N
R1 5 0 1
E_B2 3 0 value = { IF(V(5) < 0 , 0 , V(5))}
.ENDS
*$
.SUBCKT COMPWDEL_1 1 2 3
E_B1 4 0 value = { IF(V(1) > V(2) , 5 , 0)}
T1 4 0 5 0 Z0=1 TD=125.00N
R1 5 0 1
E_B2 3 0 value = { IF(V(5) < 0 , 0 , V(5))}
.ENDS
*$
.SUBCKT SSWITCH_0 1 2 3 4
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON=100.000M ROFF=10.0000MEG VON=2.0000  VOFF=0
.ENDS
*$
.SUBCKT AND2B_0 1 2 3
E_B1 4 0 value = {IF( (V(1)>1.5)&(V(2)>1.5),3.5,0.3)}
RD 4 3 1
CD 3 0 0.087NF
.ENDS
*$
.SUBCKT NOR2B_0 1 2 3
E_B1 4 0 value = {IF( ~((V(1)>1.5)|(V(2)>1.5)),3.5,0.3)}
RD 4 3 1
CD 3 0 0.087NF
.ENDS
*$
.SUBCKT NOR4B_0 1 2 3 4 5
E_B1 6 0 value = {IF( ~((V(1)>1.5)|(V(2)>1.5)|(V(3)>1.5)|(V(4)>1.5)),3.5,0.3)}
RD 6 5 1
CD 5 0 0.087NF
.ENDS
*$
.SUBCKT INVB_0 1 2
E_B1 3 0 value = {IF( ~(V(1)>1.5),3.5,0.3)}
RD 3 2 1
CD 2 0 0.087NF
.ENDS
*$
.SUBCKT COMPWDELEN_0 1 2 3 EN
E_B1 4 0 value = { IF(V(EN) < 1 , 0 , IF( V(1) > V(2) , 5 , 0))}
T1 4 0 5 0 Z0=1 TD=25.000N
R1 5 0 1
E_B2 3 0 value = { IF(V(5) < 0 , 0 , V(5))}
.ENDS
*$
.SUBCKT COMPWDELEN_1 1 2 3 EN
E_B1 4 0 value = { IF(V(EN) < 1 , 0 , IF( V(1) > V(2) , 5 , 0))}
T1 4 0 5 0 Z0=1 TD=25.000N
R1 5 0 1
E_B2 3 0 value = { IF(V(5) < 0 , 0 , V(5))}
.ENDS
*$
.MODEL DLIM D (IS=100U)
.MODEL DCGD D (CJO=98P VJ=0.600 M=0.680
.MODEL DSUB D (IS=10.4N N=1.50 RS=29.3 BV=50.0
+ CJO=138P VJ=0.800 M=0.420 TT=5N
.MODEL DMOS NMOS(LEVEL=3 VMAX=104K THETA=80.0M
+ ETA=3.20M VTO=1.28 KP=34.1
.MODEL D_D1 D( IS=1e-10 N=0.01 )
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT Cout 2 4
R1 2 3 0.0020
C1 3 1 8.524803490023462E-5 IC=3.3
R3 5 4 150
R2 2 4 1.173047567806455E7
R4 3 26 444444.44444444444
R6 3 7 444.44444444444446
C5 7 1 2.5574410470070386E-6 IC=3.3
R7 3 10 44.44444444444444
C6 10 1 2.5574410470070386E-6 IC=3.3
R8 3 13 4.444444444444445
C7 13 1 2.5574410470070386E-6 IC=3.3
C2 26 1 2.5574410470070386E-6 IC=3.3
R9 3 28 44444.444444444445
C3 28 1 2.5574410470070386E-6 IC=3.3
R10 3 29 4444.444444444444
C4 29 1 2.5574410470070386E-6 IC=3.3
L8 1 5 15p
R24 1 5 0.0060
L12 5 4 1n
.ENDS Cout
*$
.SUBCKT Cout_Startup 2 4
R1 2 3 0.0020
C1 3 1 9.995847750865053E-5 
R3 5 4 150
R2 2 4 1.0004153973968428E7
R4 3 26 444444.44444444444
R6 3 7 444.44444444444446
C5 7 1 2.998754325259516E-6 
R7 3 10 44.44444444444444
C6 10 1 2.998754325259516E-6 
R8 3 13 4.444444444444445
C7 13 1 2.998754325259516E-6 
C2 26 1 2.998754325259516E-6 
R9 3 28 44444.444444444445
C3 28 1 2.998754325259516E-6 
R10 3 29 4444.444444444444
C4 29 1 2.998754325259516E-6 
L8 1 5 15p
R24 1 5 0.0060
L12 5 4 1n
.ENDS Cout_Startup
*$
